US06133315
d) 2-Chlorobenzenesulfonic Acid 1-[[(1-acetimidoyl)piperidin-4-yl]methoxy]naphthalen-3-yl Ester Acetic Acid Salt
A mixture of 100 mg (0.214 mmol) of 2-chlorobenzenesulfonic acid 1-[(piperidin-4-yl)methoxy]naphthalen-3-yl ester hydrochloride, as prepared in the preceding step, in N,N-dimethylformamide (2 mL) containing 55 mg (0.45 mmol) of ethyl acetimidate hydrochloride and 125 μL of N,N-diisopropylethylamine was stirred at ambient temperature overnight. To the reaction mixture was added another 125 μL of N,N-diisopropylethylamine and 55 mg (0.45 mmol) of ethyl acetimidate hydrochloride. The reaction mixture was stirred for another 4 h. The reaction mixture was concentrated to dryness, quenched with 1 N sodium hydroxide (2 mL), extracted into methylene chloride, dried (K2CO3), and concentrated in vacuo. The residue was diluted with methylene chloride (1 mL), treated with 1 mL of glacial acetic acid and directly purified by preparative thin layer chromatography using methylene chloride/methanol/glacial acetic acid (93.6:6.5:0.5) as developing solvent to give the title compound. 1H-NMR (300 MHz, DMSO-d6) δ 8.14 (d, 1 H, J=8 Hz), 7.8-7.97 (m, 4 H), 7.50-7.59 (m, 3 H), 7.19 (s, 1 H), 6.68 (d, 1 H, J=2 Hz), 4.11 (d, 2 H, J=6 Hz), 3.92 (d, 2 H, J=6 Hz), 3.11 (t, 2 H, J=2.6 Hz), 2.2 (m, 1 H), 1.92 (d, 2 H), 1.75 (br s, 3 H), and 1.41 (q, 2 H). Mass spectrum (MALDI-TOF; α-cyano-4-hydroxycinnamic acid matrix) calcd. for C23H24ClN3O4S: 474.1 (M+H). Found: 473.8.

reactant | 2-chlorobenzenesulfonic acid 1-[(piperidin-4-yl)methoxy]naphthalen-3-yl ester hydrochloride | 0.214 mmol, 100 mg | Cl.N1CCC(CC1)COC1=CC(=CC2=CC=CC=C12)OS(=O)(=O)C1=C(C=CC=C1)Cl
reactant | ethyl acetimidate hydrochloride | 0.45 mmol, 55 mg | Cl.C(C)(OCC)=N
reactant | N,N-diisopropylethylamine | 125 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-diisopropylethylamine | 125 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl acetimidate hydrochloride | 0.45 mmol, 55 mg | Cl.C(C)(OCC)=N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-Chlorobenzenesulfonic Acid 1-[[(1-acetimidoyl)piperidin-4-yl]methoxy]naphthalen-3-yl Ester Acetic Acid Salt | C(C)(=O)O.C(C)(=N)N1CCC(CC1)COC1=CC(=CC2=CC=CC=C12)OS(=O)(=O)C1=C(C=CC=C1)Cl | InChI=1S/C24H25ClN2O4S.C2H4O2/c1-17(26)27-12-10-18(11-13-27)16-30-23-15-20(14-19-6-2-3-7-21(19)23)31-32(28,29)24-9-5-4-8-22(24)25;1-2(3)4/h2-9,14-15,18,26H,10-13,16H2,1H3;1H3,(H,3,4)
